US06797823B1
N-{2-Chloro-4-[(7-hydroxy6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-propylurea (42.2 g) was dissolved in trifluoroacetic acid (200 ml). Methanesulfonic acid (11.1 ml) was then added to the solution, and the mixture was stirred at 100° C. for 4 hr. The reaction solution was cooled to room temperature, and trifluoroacetic acid was removed by distillation under the reduced pressure. Chloroform and methanol were added to the mixture as the residue, followed by extraction with a 10% aqueous sodium hydroxide solution three times. The aqueous layer was neutralized with concentrated hydrochloric acid to precipitate a solid. The solid was washed with water, methanol, and ether in that order, and was then dried in vacuo through a vacuum pump to give 20.7 g (yield 60%) of the title compound.

reactant | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-propylurea | 42.2 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl)OC | C26H25ClN4O4
reactant | Methanesulfonic acid | 11.1 ml | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-{2-Chloro-4-[(7-hydroxy6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea | 20.7 g, yield 60% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C19H19ClN4O4
